US07618975B2
4-(N-(4-Methoxy-phenyl)-N-methylamino)quinazoline-2-carboxylic Acid
A mixture of ethyl 4-(N-(4-methoxy-phenyl)-N-methylamino)quinazoline-2-carboxylate (560 mg, 1.66 mmol) and sodium hydroxide (126 mg, 3.15 mmol) in 25 mL of methanol and water (1:3) was stirred at room temperature for 5 h. The solvents were removed under vaccum, and the residue was dissolved in 50 mL of water and acidified to pH 3. The white precipitate was collected and washed with water and dried (380 mg, 1.23 mmol, 74%). 1H NMR (CDCl3): 8.02-8.05 (m, 1H), 7.68 (ddd, J=1H, 8.4, 6.9, 1.5), 7.14-7.20 (m, 3H), 7.02-7.05 (m, 1H), 6.94-6.99 (m, 2H), 3.87 (s, 3H), 3.74 (s, 3H).

reactant | ethyl 4-(N-(4-methoxy-phenyl)-N-methylamino)quinazoline-2-carboxylate | 1.66 mmol, 560 mg | COC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C(=O)OCC | C19H19N3O3
reactant | sodium hydroxide | 3.15 mmol, 126 mg | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
solvent | water | O | H2O
product | 4-(N-(4-Methoxy-phenyl)-N-methylamino)quinazoline-2-carboxylic Acid | COC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C(=O)O | C17H15N3O3
